US07423159B2
To a mixture of 3-(4-nitrophenyl)propionic acid (13.45 g), N,N-dimethylformamide (0.1 mL) and tetrahydrofuran (300 mL) was added dropwise oxalyl chloride (10.5 g) at room temperature. The reaction mixture was stirred at room temperature for 1 hr. and concentrated. The obtained residue was dissolved in tetrahydrofuran (50 mL) and added dropwise to a mixture of 25% aqueous ammonia (100 mL) and tetrahydrofuran (100 mL) at room temperature. The reaction mixture was stirred at room temperature for 2 hrs. and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give 3-(4-nitrophenyl)propanamide as colorless crystals (11.80 g, yield 88%). Recrystallization thereof from ethyl acetate-hexane gave colorless prism crystals. melting point: 177-178° C.

reactant | 3-(4-nitrophenyl)propionic acid | 13.45 g | [N+](=O)([O-])C1=CC=C(C=C1)CCC(=O)O | C9H9NO4
reactant | N,N-dimethylformamide | 0.1 mL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 10.5 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 3-(4-nitrophenyl)propanamide | 11.80 g, yield 88% | [N+](=O)([O-])C1=CC=C(C=C1)CCC(=O)N | C9H10N2O3
